### PR TITLE
chore: fixes for leanprover/lean4#2734 (refactor of DiscrTree)

### PR DESCRIPTION
**Pull request by kim-em**
The reductions used by `DiscrTree` are now more configurable.

This PR is just trying to get things working again, but tactic authors may like to make further changes that take advantage of the new options.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Order/CompleteField.lean [hunk 1]
```diff
@@ -155,7 +155,8 @@ theorem cutMap_add (a b : α) : cutMap β (a + b) = cutMap β a + cutMap β b :=
       rw [coe_mem_cutMap_iff]
       exact_mod_cast sub_lt_comm.mp hq₁q
   · rintro _ ⟨_, _, ⟨qa, ha, rfl⟩, ⟨qb, hb, rfl⟩, rfl⟩
-    refine' ⟨qa + qb, _, by norm_cast⟩
+    -- After leanprover/lean4#2734, `norm_cast` needs help with beta reduction.
+    refine' ⟨qa + qb, _, by dsimp; norm_cast⟩
```
Comment (PatrickMassot) [inline Mathlib/Algebra/Order/CompleteField.lean:159]: Here and in all other places where you added a `dsimp`, should we use `beta_reduce` instead of `dsimp` to clearly say what this is doing?

File: Mathlib/NumberTheory/Padics/RingHoms.lean [hunk 2]
```diff
@@ -508,6 +508,7 @@ theorem isCauSeq_nthHom (r : R) : IsCauSeq (padicNorm p) fun n => nthHom f r n :
   use k
   intro j hj
   refine' lt_of_le_of_lt _ hk
+  dsimp -- Need to do beta reduction first, as `norm_cast` doesn't.
```
Comment (PatrickMassot) [inline Mathlib/NumberTheory/Padics/RingHoms.lean:511]:
```suggestion
  dsimp -- Need to do beta reduction first, as `norm_cast` doesn't. Added to adapt to leanprover/lean4#2734.
```

**Comment by PatrickMassot** [comment]
bors d+

File: Mathlib/Algebra/Order/CompleteField.lean (hunk 1 above)
Comment (semorrison) [reply Mathlib/Algebra/Order/CompleteField.lean]: Done

File: Mathlib/NumberTheory/Padics/RingHoms.lean [hunk 3]
```diff
@@ -508,6 +508,7 @@ theorem isCauSeq_nthHom (r : R) : IsCauSeq (padicNorm p) fun n => nthHom f r n :
   use k
   intro j hj
   refine' lt_of_le_of_lt _ hk
+  dsimp -- Need to do beta reduction first, as `norm_cast` doesn't. Added to adapt to leanprover/lean4#2734.
```
Comment (PatrickMassot) [inline Mathlib/NumberTheory/Padics/RingHoms.lean:511]:
```suggestion
  dsimp -- Need to do beta reduction first, as `norm_cast` doesn't. 
        -- Added to adapt to leanprover/lean4#2734.
```

**Comment by semorrison** [comment]
This was rolled into #8051.
